Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with history of ___ disease c/b cirrhosis,
esophageal varices and recurrent episodes of cholangitis and VRE
bacteremia on suppressive medications presenting for low grade
fever and dyspnea. 

Patient notes onset of dyspnea with dry cough on ___. Shortness
of breath present while lying down or sitting up. No chest pain,
pleuritic symptoms, lightheadedness/dizziness. No history of
asthma or COPD but feels like he has been wheezing. Notes low
grade fever 99.5 at home. Denies abdominal pain, chills,
diarrhea, blood in stool or black stools. Has been eating and
drinking well. No sick contacts. 

Of note, patient was recently admitted with concern for upper GI
bleed form gastropathy with EGD only showing grade I varices and
acute cholangitis with Enterococcus bacteremia treated with
Daptomycin for 2 weeks. Patient had previously been on
suppressive antibiotics with levofloxacin and cefpodoxime since
___ without infections. Given recurrent resistant bacterial
infections and resistance profile of bacteria, prophylaxis
regimen was changed to 1 month of cefpodoxime alternating with 1
month of Augmentin at recent ID visit. He was started on
Augmentin on ___ at which point right arm PICC was also removed.
He has started Augmentin on ___ as well though has previously
taken this medication without issues.  

In the ED initial vitals:  
T 99.4 HR 82 BP 104/53 RR 20 100%RA -->94% 2L 

- Exam notable for: 
PULM: Mild end expiratory wheeze throughout, dry cough, no
accessory mm.
ABDOMINAL: Nontender, mildly distended, no rebound/guarding, no
peritonitic signs

- Labs notable for:  
WBC 5.3 
Hgb 11.3/35.3 
Plt 43 

137/100/17
-----------<112
4.0/23/1.2

ATL 23, AST 48 AP 133 Tbili 2.2 Alb 3.1 
Lipase 19 
Trop <0.01 
Lactate 2.6 

Flu negative 
UA: negative 

- Imaging notable for:  
CXR:
Low lung volumes with bibasilar atelectasis.

abdominal U/s:
No tappable pocket on abdominal u/s 
 
- Patient was given: 
1L LR 

On the floor, patient appears to be in acute respiratory
distress, sitting up at the side of the bed. Denies chest pain
but confirms history above with worsening shortness of breath
since ___. No recent travel or pain in the ___. Notes stable mild
generalized abdominal pain that remains stable without other
symptoms. Stat CTA obtained on the floor consistent with
bilateral PE. 

REVIEW OF SYSTEMS: Positive per HPI, remaining 10 point ROS
reviewed and negative.  

 
Past Medical History:
-___ Syndrome with recurrent cholangitis and bacteremia, most 

recent from highly resistant E. coli treated with tigecycline 
(finished late ___  
-Cirrhosis    
-Depression  
-Osteopenia   
-Seasonal allergies  
-Inguinal hernia repair in ___
 
Social History:
___
Family History:
ther is alive with heart disease. Father died at ___ of 
?cancer. No family history of liver disease or polycystic kidney 

disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
===============================
T 98.6 BP 125/72 HR 92 RR 24 Sat 95% 3L NC
GENERAL: sitting up in acute respiratory distress with use of
accessory muscles, tripoding, able to complete full sentences,
coughing intermittently   
HEENT: EOMI, PERRL, anicteric sclera, MMM  
NECK: supple, no JVD  
HEART: tachycardic, regular rhythm, no murmurs, gallops, or rubs 

LUNGS: tachypneic, Diffuse wheezing bilaterally, no rhonchi or
crackles, otherwise as above 
ABDOMEN: Mildly TTP diffusely, easily reducible umbilical 
hernia,
+hepatomegaly, no rebound or peritoneal signs 
EXTREMITIES: no ___ edema, no calf tenderness, Right upper
extremity without tenderness or swelling 
NEURO: A&Ox3, moving all 4 extremities with purpose, no 
asterixis

DISCHARGE PHYSICAL EXAM:
========================
GENERAL: laying in bed comfortably, does not appear in
respiratory distress. A&Ox3
HEENT: EOMI, PERRL, anicteric sclera, MMM  
NECK: supple, no JVD  
HEART: RRR
LUNGS: CTAB, breathing comfortably 
ABDOMEN: Mildly distended but soft, nontender. 
EXTREMITIES: no ___ edema, no calf tenderness, Right upper
extremity without tenderness or swelling. Bilateral upper
extremities appear symmetrical. 
NEURO: A&Ox3, moving all 4 extremities with purpose, no 
asterixis
 
Pertinent Results:
ADMISSION LABS:
===============
___ 08:54PM URINE HOURS-RANDOM 
___ 08:54PM URINE UHOLD-HOLD 
___ 08:54PM URINE COLOR-Yellow APPEAR-Hazy* SP ___ 
___ 08:54PM URINE BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG 
___ 07:50PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE 
___ 06:39PM LACTATE-2.6* 
___ 04:30PM GLUCOSE-112* UREA N-17 CREAT-1.2 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-23 ANION GAP-14 
___ 04:30PM estGFR-Using this 
___ 04:30PM ALT(SGPT)-23 AST(SGOT)-48* ALK PHOS-133* TOT 
BILI-2.2* 
___ 04:30PM LIPASE-19 
___ 04:30PM cTropnT-<0.01 proBNP-906* 
___ 04:30PM ALBUMIN-3.1* 
___ 04:30PM WBC-5.3 RBC-3.63* HGB-11.3* HCT-35.3* MCV-97 
MCH-31.1 MCHC-32.0 RDW-19.7* RDWSD-69.0* 
___ 04:30PM NEUTS-77.7* LYMPHS-7.4* MONOS-11.4 EOS-2.3 
BASOS-0.4 IM ___ AbsNeut-4.08 AbsLymp-0.39* AbsMono-0.60 
AbsEos-0.12 AbsBaso-0.02 
___ 04:30PM ___ PTT-31.1 ___ 
___ 04:30PM PLT COUNT-43* 

PERTINENT STUDIES:
==================
___ Imaging CHEST (PA & LAT) 
Low lung volumes with bibasilar atelectasis.

___ Imaging CTA CHEST  

Large bilateral pulmonary emboli with evidence of right heart
strain.  No signs of associated pulmonary infarct. 

___ Imaging BILAT LOWER EXT VEINS   
No evidence of deep venous thrombosis in the right or left lower
extremity veins. 

___ Imaging UNILAT UP EXT VEINS US  
Nonocclusive thrombus within the right axillary vein and 
proximal
to mid right basilic vein. 

___ Imaging DUPLEX DOPP ABD/PEL 
1.  Heterogeneous hepatic parenchyma with patent paraumbilical
vein and retrograde flow of the right portal vein into the left
portal vein.  No evidence of thrombosis. 
2.  Splenomegaly, measuring 19.6 cm, previously 18.5 cm. 

___ Imaging CHEST (PORTABLE AP) 
Mild pulmonary edema, new.

___ TTE 
IMPRESSION: Preserved biventricular systolic function. Mild to
moderate tricuspid regurgitation. Mild mitral regurgitation.
Moderate to severe pulmonary hypertension. Very small 
pericardial
effusion.

DISCHARGE LABS:
===============
___ 06:17AM BLOOD WBC-2.5* RBC-3.04* Hgb-9.5* Hct-29.7* 
MCV-98 MCH-31.3 MCHC-32.0 RDW-20.5* RDWSD-73.1* Plt Ct-39*
___ 06:17AM BLOOD ___ PTT-36.2 ___
___ 06:17AM BLOOD Glucose-84 UreaN-15 Creat-1.1 Na-145 
K-4.2 Cl-110* HCO3-22 AnGap-13
___ 06:17AM BLOOD ALT-19 AST-26 AlkPhos-108 TotBili-1.0
___ 06:17AM BLOOD Albumin-2.8* Calcium-8.8 Phos-3.4 Mg-1.6 
Iron-31*
___ 06:17AM BLOOD calTIBC-203* Ferritn-95 TRF-156*
___ 05:52AM BLOOD CMV IgG-NEG CMV IgM-NEG CMVI-There is n 
EBV IgG-POS* EBNA-POS* EBV IgM-NEG EBVI-Results in
 
Brief Hospital Course:
___ male with past medical history notable for Caroli 
disease complicated by recurrent episodes of cholangitis and VRE 
bacteremia on suppressive regimen, resultant cirrhosis with 
esophageal varices and portal gastropathy, presented with low 
grade fevers and dyspnea. Found on CTA to have acute bilateral 
PE with signs of RV strain but otherwise hemodynamically stable. 
Patient was anticoagulated first on heparin drip and then 
transitioned to rivoraxaban. 

TRANSITIONAL ISSUES:
====================
[ ] Please obtain repeat echocardiogram in ___ weeks to monitor 
pulmonary artery pressures. TTE from this admission showed 
estimated PA pressures were 52 mmHg likely from PE.
[ ] Pulmonary embolus presumed to be provoked in setting of PICC 
associated DVT. Would reevaluate after 6 months of therapy if 
anticoagulation needs to be continued indefinitely.
[ ] Patient's transferrin saturation was 15% (iron 31, calTIBC 
203, ferritin 95, transferrin 156). Please consider outpatient 
iron supplementation

ACUTE ISSUES:
============
#Hypoxia
#Acute Submassive PE
Patient presented with dyspnea and CTA ___ demonstrated acute 
bilateral PE. Patient recently had PICC removed on ___ after 
finishing IV daptomycin course for recent admission for 
enterococcus bacteremia. Doppler of right upper extremity 
demonstrating DVT, lower extremity dopplers negative. In this 
setting, PE presumed to be provoked. Surface echocardiogram with 
significant pulmonary hypertension with PA systolic pressure of 
52mmHg. Cardiac biomarkers checked and BNP elevated to 900's. 
Patient Initially required 2L NC for hypoxia and weaned to room 
air at rest and ambulation by discharge. During admission, 
patient was initially started on heparin drip and transitioned 
to rivaroxaban for anticipated 6 month course of 
anticoagulation. 

#Fever
Fever to 101.3 noted on ___ in absence of other clinical 
symptoms; was on suppressive daily augmentin at this time per 
outpatient infectious disease for bacteremia. He was started on 
vancomycin/cefepime. After 48 hours of negative cultures and 
negative CXR and chest CT, patient was trialed off antibiotics 
and was afebrile without any localizing symptoms. Fever presumed 
to be in setting of clot burden. 

___
Presented with creatinine to 1.2 from baseline 0.9; resolved by 
discharge. Thought to be prerenal.

CHRONIC ISSUES:
=============
#___ Syndrome complicated by Cirrhosis
EGD in ___ demonstrated portal gastropathy and duodenal 
ectasia (cauterized). Due to concern for possible bleeding while 
on anticoagulation, home diuretics and beta blockade were held. 
At discharge these were restarted
- Restarted nadolol 20mg qdaily at discharge
- Restarted furosemide 40mg qdaily and amiloride 10mg qdaily at 
discharge. 

# CODE: confirmed DNR/DNI 
# CONTACT: Wife, ___, ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. aMILoride 10 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. Furosemide 40 mg PO DAILY 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
5. Magnesium Oxide 400 mg PO DAILY 
6. Nadolol 20 mg PO DAILY 
7. Ursodiol 600 mg PO BID 
8. Lactulose 30 mL PO Q2H 
9. calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
DAILY 
10. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 allergic reaction 
11. Loratadine 10 mg PO DAILY 
12. Pantoprazole 40 mg PO Q24H 
13. Sildenafil 50 mg PO DAILY:PRN sexual activity 
14. rifAXIMin 550 mg PO BID 
15. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN Shortness of breath  
2.  Rivaroxaban 15 mg PO BID  
3.  aMILoride 10 mg PO DAILY  
4.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H  
5.  calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
DAILY  
6.  Citalopram 20 mg PO DAILY  
7.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 allergic reaction 
Duration: 1 Dose  
8.  Furosemide 40 mg PO DAILY  
9.  Lactulose 30 mL PO Q8H:PRN As needed to have ___ Bowel 
Movements per day  
10.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
11.  Loratadine 10 mg PO DAILY  
12.  Magnesium Oxide 400 mg PO DAILY  
13.  Nadolol 20 mg PO DAILY  
14.  Pantoprazole 40 mg PO Q24H  
15.  rifAXIMin 550 mg PO BID  
16.  Sildenafil 50 mg PO DAILY:PRN sexual activity  
17.  Ursodiol 600 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
#Acute Pulmonary Embolism

SECONDARY DIAGNOSIS
___ disease complicated by recurrent episodes of cholangitis 
and VRE bacteremia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

Thank you for coming to ___ for your care.  Please read the 
following directions carefully:

Why was I admitted to the hospital?
-You were admitted to the hospital because were having 
difficulty breathing
-We found that you had blood clots in your lungs

What was done for me while I was in the hospital?
-You were placed on blood thinners to prevent the blood clots 
from getting worse

What do I need to do when I leave the hospital?
-Your primary care doctor can help arrange for short term 
disability
-Please take your medications as listed below
-Please keep your appointments as below 

We wish you the best with your care!
-Your ___ care team.
 
Followup Instructions:
___